US08283353B2
4-(3,3-dimethyl-2-oxobutyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (0.9 g), sodium hydrogen carbonate (1.4 g) and dimethyl sulfoxide (10 mL) was stirred at 40° C. for 30 min, 4′-{[4-(3,3-dimethyl-2-oxobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.4 g) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (0.17 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.14 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.17 g, 37%).

reactant | hydroxylammonium chloride | 0.9 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 1.4 g | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | 4′-{[4-(3,3-dimethyl-2-oxobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.4 g | CC(C(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)=O)(C)C | C28H29N5O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3,3-dimethyl-2-oxobutyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.17 g, 37% | CC(C(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2)=O)(C)C | C29H30N6O4
